US04036843
100 g (0.66 mol) Ethyl nicotinate and 88g (0.99 mol) 2-amino-2-methyl-1propanol were mixed and heated together under reflux for 2 hours. The excess amino alcohol was removed by distillation, bp 50°-60° (1mm). The yellow residue was recrystallized from ether-acetone to give 87.3 g (0.45 mol), 68%, N-(1-hydroxy-2-methyl-2-propyl) nicotinamide, mp 91°-93°; ir (KBr) 3385, 3200, 1665, and 1590 cm-1 ; pmr (CDCl3) δ 8.8 - 7.3 (m, 4H), 6.7 (bs, 1H), 5.0 (s, 1H), 3.7 (s, 2H) and 1.4 (s, 6H) ppm.

reactant | Ethyl nicotinate | 0.66 mol, 100 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | 2-amino-2-methyl-1propanol | NC(CO)(C)C | C4H11NO
product | N-(1-hydroxy-2-methyl-2-propyl) nicotinamide | OCC(C)(C)NC(C1=CN=CC=C1)=O | C10H14N2O2
